Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
LLQ pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ without significant PHHx p/w LLQ pain since today. She 
states that was in her USOH until yesterday she noted LLQ when 
she was at work as a medical assistant at a doctors ___. She 
was having nausea though no vomiting. No CP or SOB, no bloody 
stools. She has since had normal BMs on a couple of occasions. 
The pain has been constant although has waxed and waned, with 
occasional severe spasms. She was evaluated by her PCP who is at 
the clinic where she works. She was referred initially referred 
to ED at ___ where she was found to have normal labs and 
negative HCG. She states her last mestrual period was ___.
She was transferred to ___ ED. Pelvic US negative was negative 
for torsion but showed fibroids, CT of abdomen and pelvis 
unremarkable. Pain was controlled with IV morphine. She was 
admitted for further management.
 
Past Medical History:
1. "skin cancer" RUQ abd
2. reflux years ago
 
Social History:
___
Family History:
NC
 
Physical Exam:
PE: T 96.5 BP 96/42 HR 65 RR 20 95%RA
Gen: awake, alert, NAD, cooperative, appearing in mild pain
HEENT: MMM, OP clear, eomi, perrl
CV: RRR, no m/r/g
LUNGS: CTAB
ABD: NABS, TTP LLQ, no guarding, rebound
EXT: w/d no edema
 
Pertinent Results:
___ 09:25AM   GLUCOSE-86 UREA N-7 CREAT-0.9 SODIUM-139 
POTASSIUM-4.2 CHLORIDE-105 TOTAL CO2-27 ANION GAP-11
___ 09:25AM   estGFR-Using this
___ 09:25AM   ALT(SGPT)-20 AST(SGOT)-20 AMYLASE-51 TOT 
BILI-0.4
___ 09:25AM   LIPASE-30
___ 09:25AM   CALCIUM-8.9 PHOSPHATE-3.9 MAGNESIUM-2.2
___ 09:25AM   WBC-7.9 RBC-4.40 HGB-12.8 HCT-37.9 MCV-86 
MCH-29.0 MCHC-33.7 RDW-13.9
___ 09:25AM   PLT COUNT-387
___ 09:25AM   ___ PTT-32.1 ___
___ 01:00PM BLOOD WBC-8.4 RBC-4.33 Hgb-12.6 Hct-37.1 MCV-86 
MCH-29.1 MCHC-34.0 RDW-15.1 Plt ___
___ 01:00PM BLOOD Plt ___
___ 09:25AM BLOOD ___ PTT-32.1 ___
___ 01:00PM BLOOD K-4.2
___ 09:25AM BLOOD Glucose-86 UreaN-7 Creat-0.9 Na-139 K-4.2 
Cl-105 HCO3-27 AnGap-11
___ 09:25AM BLOOD ALT-20 AST-20 Amylase-51 TotBili-0.4
___ 09:25AM BLOOD Calcium-8.9 Phos-3.9 Mg-2.2
___ 10:46AM URINE Color-Straw Appear-Clear Sp ___
___ 10:46AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-NEG
___ 10:46AM URINE RBC-<1 /HPF WBC-<1 /HPF Bacteri-NONE 
Yeast-NONE Epi-1
.
Transvaginal US:
LMP: ___.
Transabdominal and transvaginal ultrasound was performed, the 
latter for better visualization of the endometrium and adnexa.
.
The uterus is retroverted measuring 6.2 x 3.4 x 3.7 cm. There is 
a large intramural fibroid measuring 3 x 2.6 cm which does not 
appear to contain a submucosal component. The ovaries are normal 
in size and appearance with normal arterial and venous 
waveforms. No pelvic free fluid is detected.
.
IMPRESSION:
1. Large fundal fibroid.
2. Normal appearing ovaries without free pelvic fluid. The 
possibility of torsion cannot be excluded by ultrasound.
.
.
CT abdomen ___:
IMPRESSION:
Diffuse fatty infiltration of the liver. No evidence of 
diverticulitis or other process to explain the patient's 
symptoms.

 
Brief Hospital Course:
___ year old female without significant past medical history 
presents with LLQ pain
.
# Abdominal pain:
There is an unclear etiology for the pain. Labs were 
unremarkable. Lipase of 241 at ___ appears to be in normal 
range there. Abdomen CT and pelvic US were unrevealing other 
than fibroids. There was no fever or leukocytosis to suggest an 
infectious process. Given degree of discomfort the patient was 
monitored overnight. A GYN consultation was called to evaluate 
the patient and the cause of the pain remained obscure. The pain 
was treated with morphine and percocets. The patient was urged 
to monitor her symptoms at home and to call her physician or 
return to the ED if she developed fevers or worsening pain. She 
will follow-up with her primary care physician.

 
Medications on Admission:
klonopin prn
depo-provera
 
Discharge Medications:
1. Acetaminophen 325 mg Tablet Sig: One (1) Tablet PO Q6H (every 
6 hours) as needed.  
2. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q4H (every 4 hours) as needed.
Disp:*24 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
abdominal pain
uterine fibroid

Secondary Diagnosis:
none

 
Discharge Condition:
with continuing pain that is improving

 
Discharge Instructions:
You came to the hospital with pain in your abdomen. The cause of 
the pain is uncertain, perhaps related to uterine fibroids. You 
had a CT scan of your abdomen and transvaginal ultrasound that 
showed a fibroid and were otherwise negative. 

If you have worsening abdominal pain or if you develop fevers, 
chills, or other concerning symptoms then please call your 
doctor or go to the emergency room
 
Followup Instructions:
___